US06649600B1
{2-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-ethyl}-phosphonic acid monoethyl ester
Dissolved {2-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo-[2.2.2]oct-1-yl]-ethyl}-phosphonic acid diethyl ester (30 mg, 59 μmol) in I N NaOH (4 ml) and heated the solution at 80° C. for 3 h. The mixture was allowed to cool to rt and slowly acidified with concentrated HCl. The resulting precipitate was collected and dried (22 mg, 79%). 1H NMR (400 MHz, CDCl3); δ 0.93 (coincident triplets, 6H), 1.31 (t, 3H), 1.48 (m, 8H), 1.70 (br m, 6H), 1.95 (m, 6H), 3.95 (t, 2H), 4.07 (t, 2H), 12.2 (br s, 1H).

reactant | {2-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo-[2.2.2]oct-1-yl]-ethyl}-phosphonic acid diethyl ester | 59 μmol, 30 mg | C(C)OP(OCC)(=O)CCC12CCC(CC1)(CC2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC | C25H41N4O5P
reactant | HCl | Cl | ClH
solvent | NaOH | 4 ml | [OH-].[Na+]
product | {2-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-ethyl}-phosphonic acid monoethyl ester | C(C)OP(O)(=O)CCC12CCC(CC1)(CC2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC | C23H37N4O5P
